US05559230
A mixture of 1-{4-[2-[6-phthalimidohexyloxy)benzoylamino]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine (3.75 g), hydrazine hydrate (0.44 ml) and ethanol (30 ml) is refluxed for 3.5 hours. The precipitated crystal is collected by filtration, dried and purified by silica gel column chromatography (eluent; chloroform:methanol:aqueous ammonia=100:10:1), and recrystallized from methanol/diethyl ether to give 1-{4-[2-(6-aminohexyloxy)benzoylamino]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine (2.52 g) as white powder, m.p. 135.5°-137.5° C.

reactant | 1-{4-[2-[6-phthalimidohexyloxy)benzoylamino]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine | 3.75 g | C1(C=2C(C(N1CCCCCCOC1=C(C(=O)NC3=CC=C(C(=O)N4CCCCC5=C4C=CC=C5)C=C3)C=CC=C1)=O)=CC=CC2)=O | C38H37N3O5
reactant | hydrazine hydrate | 0.44 ml | O.NN
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-{4-[2-(6-aminohexyloxy)benzoylamino]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine | 2.52 g | NCCCCCCOC1=C(C(=O)NC2=CC=C(C(=O)N3CCCCC4=C3C=CC=C4)C=C2)C=CC=C1 | C30H35N3O3
